* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 22.1
R1 n1 a 1
R2 a nc 3
V2 nc nd DC 22.7
R3 nd ne 3
V3 b ne DC 11
V4 nf b DC 10.5
R4 nf 0 1
.op
.print dc V(a) V(b)
.end